US07816354B2
2-Amino-1-(3-bromo-phenyl)-ethanol
To a solution of 2-Azido-1-(3-bromo-phenyl)-ethanol (3.38 g, 13.8 mmol) in THF (40 mL) was added water (2.48 ml, 138 mmol) and triphenylphosphine (7.26 g, 27.7 mmol). The mixture stirred for 2 hours at 50° C. and was then cooled to room temperature, diluted with water and extracted with ethyl acetate. The organics were washed with 1M HCl (2×) and the aqueous washes were combined and neutralized with 1N sodium hydroxide. The aqueous mixture was extracted with ethyl acetate and the organics were washed with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The title compound was isolated as a yellow oil (2.53 g, 85%). 1H NMR (300 MHz, CDCl3): 7.55 (s, 1H), 7.41 (d, 1H), 7.31-7.20 (m, 2H), 4.62 (m, 1H), 3.02 (d, 1H), 2.79 (m, 1H).

reactant | 2-Azido-1-(3-bromo-phenyl)-ethanol | 13.8 mmol, 3.38 g | N(=[N+]=[N-])CC(O)C1=CC(=CC=C1)Br | C8H8BrN3O
reactant | triphenylphosphine | 27.7 mmol, 7.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | water | 138 mmol, 2.48 ml | O | H2O
product | 2-Amino-1-(3-bromo-phenyl)-ethanol | NCC(O)C1=CC(=CC=C1)Br | C8H10BrNO
